US08492372B2
3-FLUORO-N-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}PROPAN-1-AMINE
3-Fluoropropan-1-amine HCl-salt (0.178 g, 1.52 mmol) was basified on a SCX-3 ion exchange column (TEA/MeOH). 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine (8.5 mg, 0.026 mmol) and 3-fluoropropan-1-amine (0.15 M in MeOH/TEA:4/1, 5 ml) was heated under microwave radiation at 120° C. for 1 h 20 min. ESIMS: m/z 322 (M+H)+.

reactant | 3-Fluoropropan-1-amine HCl-salt | 1.52 mmol, 0.178 g | Cl.FCCCN
reactant | 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine | 0.026 mmol, 8.5 mg | BrCC1OCC2=C(O1)C=C(C=C2F)S(=O)(=O)C | C10H10BrFO4S
reactant | 3-fluoropropan-1-amine | 0.15 M, 5 ml | FCCCN | C3H8FN
product | 3-FLUORO-N-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}PROPAN-1-AMINE | FCCCNCC1OCC2=C(O1)C=C(C=C2F)S(=O)(=O)C | C13H17F2NO4S
